* Agentic RAPTOR netlist  candidate=cand-53ebbaca7977
* topology_id=ota_design_001  topology_hash=4ebe15d7447549991a6a6aadbbe89f97
* model_library=generic_1u_level1
* Built-in generic LEVEL=1 models (technology-neutral; benchmark use only)
.model nmos_generic NMOS (LEVEL=1 VTO=0.5 KP=120u LAMBDA=0.05 GAMMA=0.4 PHI=0.7 CGSO=0.2n CGDO=0.2n)
.model pmos_generic PMOS (LEVEL=1 VTO=-0.5 KP=40u LAMBDA=0.06 GAMMA=0.5 PHI=0.7 CGSO=0.2n CGDO=0.2n)


C_cl n_out 0 3.16228e-13
I_ib1 n_vdd n_bias DC 2.23607e-05
M_m1 n_mirror n_inp n_tail 0 nmos_generic W=4.47214e-06 L=5e-07 M=8
M_m2 n_out n_inn n_tail 0 nmos_generic W=4.47214e-06 L=5e-07 M=8
M_m3 n_mirror n_mirror n_vdd n_vdd pmos_generic W=6.32456e-06 L=5e-07 M=8
M_m4 n_out n_mirror n_vdd n_vdd pmos_generic W=6.32456e-06 L=5e-07 M=8
M_m5 n_tail n_bias 0 0 nmos_generic W=4.47214e-06 L=5e-07 M=8
M_m6 n_bias n_bias 0 0 nmos_generic W=4.47214e-06 L=5e-07 M=8

* --- testbench sources ---
VVDD n_vdd 0 DC 1.8
VCM cm_node 0 DC 0.9  ; default: vdd/2 (common_mode_input_v unspecified)
.temp 27
.options nomod
.option reltol=1e-3 gmin=1e-12
* input wiring: inverting input inferred from port id 'inn'
VIN n_inp cm_node DC 0 AC 1
LFB n_out n_inn 1e9
CFB n_inn cm_node 1e9
* internal load-role capacitor present; external CLOAD omitted

.control
set units=degrees
op
print v(n_out) vvdd#branch
ac dec 25 1 5e+09
meas ac dc_gain_db FIND vdb(n_out) AT=10
meas ac ugf_hz WHEN vdb(n_out)=0 CROSS=1
meas ac phase_at_ugf FIND vp(n_out) WHEN vdb(n_out)=0 CROSS=1
quit 0
.endc
.end
