* Agentic RAPTOR netlist  candidate=cand-60749c71adf5
* topology_id=ota-design-001  topology_hash=9f5d10b29df8f8c8aee9f4efd313e30d
* model_library=generic_1u_level1
* Built-in generic LEVEL=1 models (technology-neutral; benchmark use only)
.model nmos_generic NMOS (LEVEL=1 VTO=0.5 KP=120u LAMBDA=0.05 GAMMA=0.4 PHI=0.7 CGSO=0.2n CGDO=0.2n)
.model pmos_generic PMOS (LEVEL=1 VTO=-0.5 KP=40u LAMBDA=0.06 GAMMA=0.5 PHI=0.7 CGSO=0.2n CGDO=0.2n)


C_cc1 n_tail 0 6.3577e-13
C_cl n_out 0 1.04709e-12
I_ib1 n_vdd n_bias DC 3.09822e-05
M_m1 n_mirror n_inp n_tail 0 nmos_generic W=9.25742e-06 L=7.48632e-07 M=7
M_m2 n_out n_inn n_tail 0 nmos_generic W=3.41544e-06 L=3.27433e-07 M=9
M_m3 n_mirror n_mirror n_vdd n_vdd pmos_generic W=3.78337e-05 L=7.88812e-07 M=7
M_m4 n_out n_mirror n_vdd n_vdd pmos_generic W=7.58495e-06 L=4.9285e-07 M=7
M_m5 n_tail n_bias 0 0 nmos_generic W=5.5223e-06 L=4.03502e-07 M=8
M_m6 n_bias n_bias 0 0 nmos_generic W=4.50013e-06 L=5.03388e-07 M=9

* --- testbench sources ---
VVDD n_vdd 0 DC 1.8
VCM cm_node 0 DC 0.9  ; default: vdd/2 (common_mode_input_v unspecified)
.temp 27
.options nomod
.option reltol=1e-3 gmin=1e-12
* input wiring: inverting input inferred from port id 'inn'
VIN n_inp cm_node DC 0 AC 1
LFB n_out n_inn 1e9
CFB n_inn cm_node 1e9
* internal load-role capacitor present; external CLOAD omitted

.control
set units=degrees
op
print v(n_out) vvdd#branch
ac dec 25 1 5e+09
meas ac dc_gain_db FIND vdb(n_out) AT=10
meas ac ugf_hz WHEN vdb(n_out)=0 CROSS=1
meas ac phase_at_ugf FIND vp(n_out) WHEN vdb(n_out)=0 CROSS=1
quit 0
.endc
.end
